US04111900
a. Preparation of vinylmethyl phosphinic acid allyl ester
202 g of triethyl amine (2 mols) were added while stirring at 0° to 5° C. to a solution of 116 g of allyl alcohol (2 mols) in 1 l of anhydrous chloroform and then 249 g of methylvinyl phosphinic acid chloride (2 mols) were added dropwise over a period of about 1 hour. After suction filtration, the solid residue (triethyl amine hydrochloride) was dissolved in water, the emerging oily layer was separated and combined with the filtrate. To remove the chloride ions the filtrate was shaken 4 times, each time with 600 ml of water, dried over sodium sulfate and the chloroform was distilled off in a rotary evaporator. The brown oily residue was distilled under a pressure of 0.01 mm at a temperature of the oil bath of 40° C. 85 g of a colorless liquid were obtained.

reactant | triethyl amine | 2 mols, 202 g | C(C)N(CC)CC | C6H15N
reactant | allyl alcohol | 2 mols, 116 g | C(C=C)O | C3H6O
reactant | methylvinyl phosphinic acid chloride | 2 mols, 249 g | CC=CP(=O)Cl | C3H6ClOP
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
product | vinylmethyl phosphinic acid allyl ester | 85 g | C(C=C)OP(=O)CC=C | C6H11O2P
